US09227971B2
2,5-Dibromopyridine (7.11 g, 30 mmol) was dissolved in dry toluene (200 mL) and cooled to −78° C. n-BuLi (14.4 mL, 2.5 M in THF, 36 mmol) was added dropwise. The mixture was stirred at −78° C. for 2 hours and ethyl trifluoroacetate (6.39 g, 45 mmol) was added. The resulting mixture was allowed to warm to room temperature slowly and stirred at room temperature for 30 min. The reaction was quenched with NH4Cl (aq.) and extracted with EtOAc. The organics were dried and concentrated and the resulting residue was purified by column chromatography (silica gel, 0-30% EtOAc/Hexane) to give the product 1-(5-bromopyridin-2-yl)-2,2,2-trifluoroethanone (5.87 g).

reactant | 2,5-Dibromopyridine | 30 mmol, 7.11 g | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | n-BuLi | 36 mmol, 2.5 M, 14.4 mL | [Li]CCCC
reactant | ethyl trifluoroacetate | 45 mmol, 6.39 g | FC(C(=O)OCC)(F)F | C4H5F3O2
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(5-bromopyridin-2-yl)-2,2,2-trifluoroethanone | 5.87 g | BrC=1C=CC(=NC1)C(C(F)(F)F)=O | C7H3BrF3NO
